US04937268
2-[2-[[2-[(6-Bromohexyl)oxy]ethyl]thio]ethyl]pyridine
A mixture of 2-[[2-(2-pyridinyl)ethyl]thio]ethanol (0.50 g), 1,6-dibromohexane (2.13 g), TAB (0.4 g) and 50% aqueous sodium hydroxide (6 ml) was stirred under nitrogen for 6 h, then diluted with water (75 ml) and extracted with diethyl ether (2×150 ml). The organic extracts were evaporated in vacuo to give an oil, which was partitioned between 2N hydrochloric acid (100 ml) and hexane (2×100 ml). The aqueous phase was basified to pH 12 with 50% aqueous sodium hydroxide and extracted with diethyl ether (2×150 ml), the dried organic extracts were evaporated in vacuo to give an oil. Purification by FCC eluting with System F (1:1) gave the title compound (0.60 g) as a colourless oil. T.l.c. (diethyl ether) Rf 0.64

reactant | 2-[[2-(2-pyridinyl)ethyl]thio]ethanol | 0.50 g | N1=C(C=CC=C1)CCSCCO | C9H13NOS
reactant | 1,6-dibromohexane | 2.13 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
product | 2-[2-[[2-[(6-Bromohexyl)oxy]ethyl]thio]ethyl]pyridine | 0.60 g | BrCCCCCCOCCSCCC1=NC=CC=C1 | C15H24BrNOS
